US20010027196A1
To 1,67 g (41.7 mmol, 60% dispersion in mineral oil) sodium hydride in a 2-necked flask fitted with a reflux condenser was added dropwise 150 ml THF and the mixture was then heated to reflux. A solution of 1.0 ml (208 mmol) acetonitrile and 6.30 g (41.7 mmol) 5-cyano-furan-2-carboxylic acid methyl ester in 100 ml dry THF was added dropwise and the reaction mixture heated at reflux for 4 hours. The reaction mixture was then cannulated into a rapidly stirred solution of 1M hydrochloric acid at 0° C. The mixture was extracted three times with ethyl acetate and the combined organic phases dried over sodium sulfate and concentrated in vacuo. Chromatography (ethyl acetate/hexane 1/1) afforded 2.90 g (43%) 5-cyanoacetyl-furan-2-carbonitrile as an orange oil. EI-MS m/e (%): 160 (M+, 19), 120 ([M—CH2CN]+, 100).

reactant | sodium hydride | 41.7 mmol, 1,67 g | [H-].[Na+]
reactant | acetonitrile | 208 mmol, 1.0 ml | C(C)#N | C2H3N
reactant | 5-cyano-furan-2-carboxylic acid methyl ester | 41.7 mmol, 6.30 g | COC(=O)C=1OC(=CC1)C#N | C7H5NO3
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | THF | 100 ml | C1CCOC1 | C4H8O
solvent | THF | 150 ml | C1CCOC1 | C4H8O
product | 5-cyanoacetyl-furan-2-carbonitrile | 2.90 g, 43% | C(#N)CC(=O)C1=CC=C(O1)C#N | C8H4N2O2
